### PR TITLE
[Merged by Bors] - chore: rename UniformGroup -> IsUniformGroup and UniformAddGroup -> IsUniformAddGroup

### PR DESCRIPTION
**Pull request by riccardobrasca**
This is a follow-up to #21472.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean [hunk 1]
```diff
@@ -90,28 +90,28 @@ section LatticeOps
...
     (f : F) (hf : IsUniformInducing f) :
-    UniformGroup β where
+    IsUniformGroup β where
   uniformContinuous_div := by
     simp_rw [hf.uniformContinuous_iff, Function.comp_def, map_div]
     exact uniformContinuous_div.comp (hf.uniformContinuous.prodMap hf.uniformContinuous)
 
 @[deprecated (since := "2024-10-05")]
-alias UniformInducing.uniformGroup := IsUniformInducing.uniformGroup
+alias UniformInducing.isUniformGroup := IsUniformInducing.isUniformGroup
```
Comment (urkud) [inline Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean:102]: I think that we should add new deprecated aliases, not edit the old ones. Also, we should have both multiplicative and additive versions. Since `to_additive` doesn't play well with `deprecated` at the moment, I usually use the following workaround: first create a deprecated alias for the additive version, then use `@[to_additive existing, deprecate (since := ..)]` (in this order) for the multiplicative version.

Comment (riccardobrasca) [reply Mathlib/Topology/Algebra/IsUniformGroup/Basic.lean]: Thanks for the suggestion. Can you check I've done it the right way? If it is OK I will do the same elsewhere.

**Comment by urkud** [comment]
Please coordinate with #23350

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 2]
```diff
@@ -226,22 +231,22 @@ theorem uniformity_eq_comap_nhds_one_swapped :
   rfl
 
 @[to_additive]
-theorem UniformGroup.ext {G : Type*} [Group G] {u v : UniformSpace G} (hu : @UniformGroup G u _)
-    (hv : @UniformGroup G v _)
+theorem IsUniformGroup.ext {G : Type*} [Group G] {u v : UniformSpace G} (hu : @IsUniformGroup G u _)
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:234]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 3]
```diff
@@ -226,22 +231,22 @@ theorem uniformity_eq_comap_nhds_one_swapped :
...
+    (hv : @IsUniformGroup G v _)
     (h : @nhds _ u.toTopologicalSpace 1 = @nhds _ v.toTopologicalSpace 1) : u = v :=
   UniformSpace.ext <| by
     rw [@uniformity_eq_comap_nhds_one _ u _ hu, @uniformity_eq_comap_nhds_one _ v _ hv, h]
 
 @[to_additive]
-theorem UniformGroup.ext_iff {G : Type*} [Group G] {u v : UniformSpace G}
-    (hu : @UniformGroup G u _) (hv : @UniformGroup G v _) :
+theorem IsUniformGroup.ext_iff {G : Type*} [Group G] {u v : UniformSpace G}
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:241]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 4]
```diff
@@ -226,22 +231,22 @@ theorem uniformity_eq_comap_nhds_one_swapped :
...
+    (hu : @IsUniformGroup G u _) (hv : @IsUniformGroup G v _) :
     u = v ↔ @nhds _ u.toTopologicalSpace 1 = @nhds _ v.toTopologicalSpace 1 :=
   ⟨fun h => h ▸ rfl, hu.ext hv⟩
 
 variable {α}
 
 @[to_additive]
-theorem UniformGroup.uniformity_countably_generated [(𝓝 (1 : α)).IsCountablyGenerated] :
+theorem IsUniformGroup.uniformity_countably_generated [(𝓝 (1 : α)).IsCountablyGenerated] :
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:249]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 5]
```diff
@@ -179,23 +184,23 @@ section LatticeOps
...
+theorem isUniformGroup_iInf {ι : Sort*} {us' : ι → UniformSpace β}
+    (h' : ∀ i, @IsUniformGroup β (us' i) _) : @IsUniformGroup β (⨅ i, us' i) _ := by
   rw [← sInf_range]
-  exact uniformGroup_sInf (Set.forall_mem_range.mpr h')
+  exact isUniformGroup_sInf (Set.forall_mem_range.mpr h')
 
 @[to_additive]
-theorem uniformGroup_inf {u₁ u₂ : UniformSpace β} (h₁ : @UniformGroup β u₁ _)
-    (h₂ : @UniformGroup β u₂ _) : @UniformGroup β (u₁ ⊓ u₂) _ := by
+theorem isUniformGroup_inf {u₁ u₂ : UniformSpace β} (h₁ : @IsUniformGroup β u₁ _)
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:200]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 6]
```diff
@@ -179,23 +184,23 @@ section LatticeOps
...
+    @IsUniformGroup β (sInf us) _ :=
+  @IsUniformGroup.mk β (_) _ <|
     uniformContinuous_sInf_rng.mpr fun u hu =>
-      uniformContinuous_sInf_dom₂ hu hu (@UniformGroup.uniformContinuous_div β u _ (h u hu))
+      uniformContinuous_sInf_dom₂ hu hu (@IsUniformGroup.uniformContinuous_div β u _ (h u hu))
 
 @[to_additive]
-theorem uniformGroup_iInf {ι : Sort*} {us' : ι → UniformSpace β}
-    (h' : ∀ i, @UniformGroup β (us' i) _) : @UniformGroup β (⨅ i, us' i) _ := by
+theorem isUniformGroup_iInf {ι : Sort*} {us' : ι → UniformSpace β}
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:194]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 7]
```diff
@@ -179,23 +184,23 @@ section LatticeOps
 variable [Group β]
 
 @[to_additive]
-theorem uniformGroup_sInf {us : Set (UniformSpace β)} (h : ∀ u ∈ us, @UniformGroup β u _) :
-    @UniformGroup β (sInf us) _ :=
-  @UniformGroup.mk β (_) _ <|
+theorem isUniformGroup_sInf {us : Set (UniformSpace β)} (h : ∀ u ∈ us, @IsUniformGroup β u _) :
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:187]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 8]
```diff
@@ -142,12 +146,13 @@ theorem uniformContinuous_zpow_const (n : ℤ) : UniformContinuous fun x : α =>
...
 
 @[to_additive]
-instance (priority := 10) UniformGroup.to_topologicalGroup : IsTopologicalGroup α where
+instance (priority := 10) IsUniformGroup.to_topologicalGroup : IsTopologicalGroup α where
   continuous_mul := uniformContinuous_mul.continuous
   continuous_inv := uniformContinuous_inv.continuous
 
 @[to_additive]
-instance Prod.instUniformGroup [UniformSpace β] [Group β] [UniformGroup β] : UniformGroup (α × β) :=
+instance Prod.instIsUniformGroup [UniformSpace β] [Group β] [IsUniformGroup β] :
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:154]: A deprecation here might be useful.

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean [hunk 9]
```diff
@@ -31,35 +31,39 @@ noncomputable section
...
   ⟨by simpa only [div_eq_mul_inv] using
     h₁.comp (uniformContinuous_fst.prodMk (h₂.comp uniformContinuous_snd))⟩
 
-variable [UniformSpace α] [Group α] [UniformGroup α]
+variable [UniformSpace α] [Group α] [IsUniformGroup α]
 
 @[to_additive]
 theorem uniformContinuous_div : UniformContinuous fun p : α × α => p.1 / p.2 :=
-  UniformGroup.uniformContinuous_div
+  IsUniformGroup.uniformContinuous_div
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:66]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean [hunk 10]
```diff
@@ -224,8 +224,8 @@ instance (priority := 100) : NonarchimedeanRing R :=
 instance (priority := 100) : UniformSpace R :=
   IsTopologicalAddGroup.toUniformSpace R
 
-instance (priority := 100) : UniformAddGroup R :=
-  uniformAddGroup_of_addCommGroup
+instance (priority := 100) : IsUniformAddGroup R :=
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean:227]: Do we want a deprecation here?

File: Mathlib/Topology/Algebra/Ring/Real.lean [hunk 11]
```diff
@@ -44,8 +44,8 @@ theorem Real.uniformContinuous_neg : UniformContinuous (@Neg.neg ℝ _) :=
   Metric.uniformContinuous_iff.2 fun ε ε0 =>
     ⟨_, ε0, fun _ _ h => by simpa only [abs_sub_comm, Real.dist_eq, neg_sub_neg] using h⟩
 
-instance : UniformAddGroup ℝ :=
-  UniformAddGroup.mk' Real.uniformContinuous_add Real.uniformContinuous_neg
+instance : IsUniformAddGroup ℝ :=
+  IsUniformAddGroup.mk' Real.uniformContinuous_add Real.uniformContinuous_neg
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Ring/Real.lean:48]: A deprecation here might be useful.

File: Mathlib/Topology/Algebra/SeparationQuotient/Basic.lean [hunk 12]
```diff
@@ -202,16 +202,16 @@ instance instIsTopologicalGroup [Group G] [IsTopologicalGroup G] :
 
 end Group
 
-section UniformGroup
+section IsUniformGroup
 
 @[to_additive]
-instance instUniformGroup {G : Type*} [Group G] [UniformSpace G] [UniformGroup G] :
-    UniformGroup (SeparationQuotient G) where
+instance instIsUniformGroup {G : Type*} [Group G] [UniformSpace G] [IsUniformGroup G] :
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/SeparationQuotient/Basic.lean:208]: Do we want a deprecation here?

File: Mathlib/Topology/Instances/Rat.lean [hunk 13]
```diff
@@ -98,8 +98,8 @@ theorem uniformContinuous_neg : UniformContinuous (@Neg.neg ℚ _) :=
   Metric.uniformContinuous_iff.2 fun ε ε0 =>
     ⟨_, ε0, fun _ _ h => by simpa only [abs_sub_comm, dist_eq, cast_neg, neg_sub_neg] using h⟩
 
-instance : UniformAddGroup ℚ :=
-  UniformAddGroup.mk' Rat.uniformContinuous_add Rat.uniformContinuous_neg
+instance : IsUniformAddGroup ℚ :=
```
Comment (faenuccio) [inline Mathlib/Topology/Instances/Rat.lean:101]: A deprecation here might be useful.

File: Mathlib/Topology/Instances/TrivSqZeroExt.lean [hunk 14]
```diff
@@ -161,9 +161,9 @@ instance instUniformSpace : UniformSpace (tsze R M) where
 instance [CompleteSpace R] [CompleteSpace M] : CompleteSpace (tsze R M) :=
   inferInstanceAs <| CompleteSpace (R × M)
 
-instance [AddGroup R] [AddGroup M] [UniformAddGroup R] [UniformAddGroup M] :
-    UniformAddGroup (tsze R M) :=
-  inferInstanceAs <| UniformAddGroup (R × M)
+instance [AddGroup R] [AddGroup M] [IsUniformAddGroup R] [IsUniformAddGroup M] :
```
Comment (faenuccio) [inline Mathlib/Topology/Instances/TrivSqZeroExt.lean:164]: Do we want a deprecation here?

File: Mathlib/Topology/UniformSpace/Matrix.lean [hunk 15]
```diff
@@ -21,9 +21,9 @@ namespace Matrix
 instance instUniformSpace : UniformSpace (Matrix m n 𝕜) :=
   (by infer_instance : UniformSpace (m → n → 𝕜))
 
-instance instUniformAddGroup [AddGroup 𝕜] [UniformAddGroup 𝕜] :
-    UniformAddGroup (Matrix m n 𝕜) :=
-  inferInstanceAs <| UniformAddGroup (m → n → 𝕜)
+instance instIsUniformAddGroup [AddGroup 𝕜] [IsUniformAddGroup 𝕜] :
```
Comment (faenuccio) [inline Mathlib/Topology/UniformSpace/Matrix.lean:24]: A deprecation here might be useful.

File: Mathlib/Analysis/LocallyConvex/WeakOperatorTopology.lean [hunk 16]
```diff
@@ -230,7 +230,7 @@ instance instIsTopologicalAddGroup : IsTopologicalAddGroup (E →WOT[𝕜] F) wh
 
 instance instUniformSpace : UniformSpace (E →WOT[𝕜] F) := .comap (inducingFn 𝕜 E F) inferInstance
 
-instance instUniformAddGroup : UniformAddGroup (E →WOT[𝕜] F) := .comap (inducingFn 𝕜 E F)
+instance instIsUniformAddGroup : IsUniformAddGroup (E →WOT[𝕜] F) := .comap (inducingFn 𝕜 E F)
```
Comment (faenuccio) [inline Mathlib/Analysis/LocallyConvex/WeakOperatorTopology.lean:233]: A deprecation here might be useful.

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 17]
```diff
@@ -503,8 +503,8 @@ instance instIsTopologicalAddGroup : IsTopologicalAddGroup 𝓢(E, F) :=
 instance instUniformSpace : UniformSpace 𝓢(E, F) :=
   (schwartzSeminormFamily ℝ E F).addGroupFilterBasis.uniformSpace
 
-instance instUniformAddGroup : UniformAddGroup 𝓢(E, F) :=
-  (schwartzSeminormFamily ℝ E F).addGroupFilterBasis.uniformAddGroup
+instance instIsUniformAddGroup : IsUniformAddGroup 𝓢(E, F) :=
```
Comment (faenuccio) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:506]: A deprecation here might be useful.

File: Mathlib/Analysis/CStarAlgebra/CStarMatrix.lean [hunk 18]
```diff
@@ -589,8 +589,8 @@ instance instT3Space : T3Space (CStarMatrix m n A) := _root_.instT3Space
 instance instIsTopologicalAddGroup : IsTopologicalAddGroup (CStarMatrix m n A) :=
   Pi.topologicalAddGroup
 
-instance instUniformAddGroup : UniformAddGroup (CStarMatrix m n A) :=
-  Pi.instUniformAddGroup
+instance instIsUniformAddGroup : IsUniformAddGroup (CStarMatrix m n A) :=
```
Comment (faenuccio) [inline Mathlib/Analysis/CStarAlgebra/CStarMatrix.lean:592]: A deprecation here might be useful.

**Review by faenuccio — COMMENTED** [review]
I left several comments about deprecation, following the pattern
* Do we want a deprecation here? = I have no strong opinion
* A deprecation here might be useful. = I suggest adding it.

But of course, feel free to do what you prefer.

**Comment by faenuccio** [comment]
maintainer delegate

**Comment by jcommelin** [comment]
bors d+

(I guess `scripts/add_deprecations.sh` might help?)

**Comment by faenuccio** [comment]
> bors d+
> 
> (I guess `scripts/add_deprecations.sh` might help?)

In principle yes, but it forgets all instances and some of them were explicitly named (for a good reason, I believe); so I suggest we still add the deprecation to those.

File: Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/Topology/Algebra/IsUniformGroup/Defs.lean:66]: Here only the proof changed, not any name.

File: Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean (hunk 10 above)
Comment (riccardobrasca) [reply Mathlib/Topology/Algebra/Nonarchimedean/AdicTopology.lean:227]: The name is autogenated, I don't see anything to deprecate.
